US08404738B2
DMF-DMA (3.15 g, 26.4 mmol) was added into a solution of 5-fluoroindolin-2-one LXXXVIII (2.0 g, 13.2 mmol) in dry THF. The reaction mixture was stirred at rt for 4 hr before being poured into water and extracted by EtOAc. The organic layer was separated and dried by Na2SO4, and concentrated to give (E)-3-((dimethylamino)methylene)-5-fluoroindolin-2-one LXXXVIX.

reactant | DMF-DMA | 26.4 mmol, 3.15 g | CN(C)C(OC)OC | C5H13NO2
reactant | 5-fluoroindolin-2-one | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | (E)-3-((dimethylamino)methylene)-5-fluoroindolin-2-one | CN(C)\C=C/1\C(NC2=CC=C(C=C12)F)=O | C11H11FN2O
